Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Erratic and self-injurious behavior
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of alcohol dependence, ? hepatitis C
virus presenting with altered mental status.  History is 
obtained
from review of ___ and ___ ED records, discussion with
nursing staff from ___ Alcohol and Substance Abuse
___ at ___ (___) as patient is able is unable to
provide detailed history secondary to altered mental status.  
Per
___ provider notes, patient has presented to ___ ED 12 times since ___.  He was
apparently admitted on ___ to ___ under Section 35, and
was noted to have increasing self-injurious behavior and
confusion over the 24 hours preceding presentation.  According 
to
the nursing staff at ___, at the time of admission the patient
was "alert but vague." At that time, he apparently complained of
rib pain, but was unable to state whether or not he had fallen,
stating that he had intermittent blackouts.  She reports and
patient confirms that he routinely drinks a case of beer and ___
gallon of vodka per day, with the last drink on the morning of
___.  He is homeless, and has a history of alcohol 
related
seizures, last one reportedly 10 days prior to presentation. 
Patient denies a history of suicide attempts or self-injurious
behavior. He was apparently noted to be beating his head on a
window, and sustained right hand abrasions from punching the
window.  Per nursing staff, it appeared that these episodes were
an attempt to leave the facility.  Of note, nursing staff at
___ report that his Dilantin was changed from 300 mg 3 times
daily to 300 mg p.o. daily on ___ for reasons that are 
not
clearly documented.  He was also apparently receiving both
lactulose and Imodium.  Nursing staff states that he received
Librium 50 mg p.o. 3 times daily beginning on ___, with
additional doses of 25 mg p.o. at 11 AM and 11 ___ on ___ based on CIWA scale.  He also received Reglan,
multivitamins, thiamine, folate.  His last dose of Librium was
apparently on ___ at 8 AM prior to transfer to ___
emergency room for progressive confusion and self-injurious
behavior.  

In the ___ emergency room, initial vital signs were
98.9, 82, 111/78, 98% on room air.  Labs were notable for WBC
4.4, hemoglobin 11.9, platelets 185.  Sodium 139, creatinine
0.93, ALT 35, AST 48, alk phos 61, T bili 0.5, CK 156, INR 1.02,
with serum tox screen negative for salicylates, Tylenol, 
alcohol.
Phenytoin level was 19.9, with valproic acid 76.9.  ABG is
7.41/41.9/78.3.  Several imaging studies were performed,
including maxillofacial CT which revealed nasal bone fractures
and overlying soft tissue injury, CT abdomen and pelvis without
contrast showed cholelithiasis without acute cholecystitis, and 
a
nonobstructing punctate stone within the left kidney.  CT chest
without contrast revealed trace bilateral pleural fluid and
dependent atelectasis, with healing rib fractures along the
posterior inferior right ribs or possibly acute fractures along
the left anterior fifth through seventh anterior ribs.  Notably,
a 9 x 6 mm nodule was noted within the right middle lobe. 
Cervical spine CT noted emphysematous changes at the lung 
apices,
and no other acute abnormality head CT was without acute
findings.  Patient received acyclovir, ceftriaxone, vancomycin,
lorazepam 2 mg IV Ã-1 at 11:30 ___ on ___, and lorazepam 1 
mg
IV Ã-1 at 1:22 AM on ___.  He also received 1 L of IV
fluids blood cultures were drawn.  Patient was transferred from
___ to ___ for further evaluation.

In ___ ED:
Vital signs were 97.5, 80, 144/81, 98% on room air, with glucose
81.  Labs were again unrevealing, with negative UA, and urine 
tox
screen positive only for benzodiazepines.  Ammonia was 36. 
Neurology service was consulted, and noted diaphoresis,
agitation, disorientation, inattention, and possible mild 
anomia,
few symmetric hyperreflexia, and it and limited motor testing
without any clear weakness, most consistent with agitated
delirium secondary to alcohol withdrawal or delirium tremens. 
Neurology noted the absence of meningismus and fever, and
recommended against continuing empiric meningitis coverage.

On arrival to the floor, patient states that he his in ___,
and states that he wants to go to a ___ facility of his
choosing.  He endorses "migraine" headache, but denies a history
of migraines.  He also endorses cough, diarrhea, left rib pain,
worse with deep inspiration.  He is unable to provide further
details including chronicity of the symptoms.  He endorses
anterior neck pain with neck flexion, but no posterior pain.  He
confirms a history of alcohol-related seizures, and is aware 
that
he was being prescribed Dilantin at the facility, states that
this is not his normal seizure medicine.  He is unable to 
provide
further details.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI
 
Past Medical History:
Alcohol use disorder
History of seizures
HCV
 
Social History:
___
Family History:
Unable to obtain secondary to altered mental status, unlikely to
be relevant to altered mental status in patient with alcohol use
disorder
 
Physical Exam:
ADMISSION PHYSICAL
GEN: Somnolent male lying in bed, appears comfortable with 
facial
abrasions, in no acute distress
HEENT: Slight anisocoria with left pupil 1 mm greater than 
right,
both round and reactive to light and accommodation. Anicteric,
conjunctiva pink, oropharynx without
lesion or exudate, dry mucus membranes.  Abrasions over nasal
bridge with dried crusting blood in bilateral nares.  Healing
laceration at right temporal region
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: Diminished breath sounds throughout, with occasional
crackles at left base in left lateral decubitus
GI: soft, nontender, without rebounding or guarding, 
nondistended
with normal active bowel
sounds, no hepatomegaly, negative ___ sign
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: Facial abrasions as noted above, multiple tattoos; warm to
palpation
NEURO: Somnolent, arousable to verbal and tactile stimuli,
readily falls asleep during exam.  Oriented to person, not to
place or date.  Limited ability to follow commands secondary to
somnolence.  Face grossly symmetric, full cranial nerve exam
limited by somnolence and difficulty following commands. 
Strength appears to be 5 out of 5 in upper extremities and lower
extremities bilaterally, although limited by effort.  Finger to
nose testing with dysmetria, again limited by somnolence.  
Speech
notable for dysarthria.  Positive Romberg sign, negative 
pronator
drift, tremulousness noted with head-bobbing only, no upper
extremity tremulousness at rest, no asterixis.  Unable to assess
heel to toe walking given unsteadiness.  Ataxic staggering gait. 

Somnolence fluctuates, and is punctuated by brief periods 
lasting
___ minutes of increased alertness, making jokes, with 
persistent
mild dysarthria.
PSYCH: Somnolent, unable to assess in detail.  Denies SI, HI. 
Endorses history of visual hallucinations, not currently, and
unable to provide further details.

DISCHARGE PHYSICAL
GEN: awake and alert. Appears comfortable despite his known 
injuries
ENT: MMM, no oral lesions, audition intact. Dried blood inside 
his fractured nose. Abrasions over nasal bridge. Healing 
laceration at right temporal region
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: RRR without murmurs, rubs, or gallops
LUNGS: LCAB
GI: soft, nontender, without rebounding or guarding, 
nondistended, NABS
NEURO: Awake and alert. AO x ___. CN intact and without 
nystagmus. Ataxic staggering gait. 
PSYCH: calm and appropriate
 
Pertinent Results:
LABS:
___ 07:40AM BLOOD WBC-7.6 RBC-4.42* Hgb-13.1* Hct-40.3 
MCV-91 MCH-29.6 MCHC-32.5 RDW-14.0 RDWSD-47.8* Plt ___
___ 07:40AM BLOOD Glucose-79 UreaN-7 Creat-0.6 Na-143 K-4.0 
Cl-103 HCO3-26 AnGap-14
___ 11:40AM BLOOD ALT-40 AST-60* CK(CPK)-125 AlkPhos-81 
TotBili-0.2
___ 07:40AM BLOOD Calcium-8.2* Phos-3.6 Mg-2.0
___ 11:40AM BLOOD TSH-0.55
___ 11:47AM BLOOD Ammonia-36
___ 09:00AM BLOOD Phenyto-22.3*
___ 11:40AM BLOOD Phenyto-24.4* Valproaate-45*
___ 07:40AM BLOOD HCV Ab-POS*

IMAGING:
Scans from ___ notable for nasal bone fracture and multiple 
rib fractures. 
 
Brief Hospital Course:
# Toxic encephalopathy: 
Differential diagnosis for altered mental status in this patient 
with long-standing alcohol use disorder includes alcohol 
withdrawal, Librium intoxication, Wernicke's encephalopathy, and 
non-convulsive status epilepticus. Prior to any definitive 
testing, he improved markedly and was no longer somnolent, 
disoriented, or erratic. The patient says that he feels he was 
"high on Librium." We followed him on CIWA and noted that he 
scores an 8 at baseline just for his reported headaches and 
anxiety without any objective signs of withdrawal. Possibly he 
was scoring erroneously for Librium and received too much. He 
was seen by neurology who did not recommend further workup. 

#Known seizure disorder
The patient was found to have a supratherapeutic Dilantin level. 
He is continued on his same meds (Depakote and Dilantin) but at 
a reduced Dilantin dose of 100 mg TID. Please do not resume 
Dilantin until the morning after hospital discharge, then check 
daily Dilantin troughs until it is clear he is stable at a 
therapeutic level ___ mcg/mL). 

#Alcohol use disorder
He will require continued treatment to support sobriety. He was 
given IV thiamine and is discharged on PO thiamine, folate and 
multivitamins. 
Last drink was apparently the morning of ___, so he is 
unlikely to require further meds for withdrawal. If he is 
agitated but with stable BP and heart rate, x1 doses of Haldol 
could be considered. 

# Nasal fracture:
# Rib fractures:
The patient did not appear to be in significant pain. No 
specific follow up is needed for these non-operative fractures. 

OUTSTANDING ISSUES
[] Daily phenytoin and albumin levels and adjust corrected 
phenytoin level to goal ___ around 15) until at steady 
state. 
[] Please make him local PCP and neuro appointments whenever he 
is ready for discharge to the community.  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Phenytoin Sodium Extended 300 mg PO TID (note: exact dose 
unclear) 
2. ChlordiazePOXIDE 50 mg PO Frequency is Unknown Received 250 
mg in the days prior to admission 
3. Valproic Acid ___ mg PO Q12H 

 
Discharge Medications:
1.  Divalproex (DELayed Release) 500 mg PO BID 
2.  FoLIC Acid 1 mg PO DAILY 
3.  Multivitamins 1 TAB PO DAILY 
4.  Phenytoin Infatab 100 mg PO TID 
5.  Thiamine 100 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Toxic encephalopathy
Alcohol dependence with withdrawal delirium
Nasal bone fracture
Rib fractures

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent (but gait is unsteady 
and he is a fall risk)

 
Discharge Instructions:
You were admitted with confusion and endangering yourself with 
odd and erratic behavior. By the next day you were doing a lot 
better.  The cause is not totally clear, but possibly you 
received too large a dose of medications to treat your alcohol 
withdrawal.  

You also have several injuries including rub fractures and a 
broken nose. These injuries do not require any specific 
intervention and should heal on their own. 
 
Followup Instructions:
___